US04772600
2-(4-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
N-[3-[(4-bromobenzoyl)amino]-2-pyridinyl]glycine ethyl ester (4.6 g, 0.012 mole) was heated in glass in a 190° C. oil bath for 1/2 hour. The melt was cooled and methylene chloride (150 ml) added. The solution was twice treated with 25 g of Florisil® and filtered. The filtrate was concentrated in vacuo and the residue recrystallized from isopropyl ether-ethanol to give 2.1 g (49%) of a white flocculent solid, mp 138°-139° C.

reactant | N-[3-[(4-bromobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 0.012 mole, 4.6 g | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)Br)=O)=O | C16H16BrN3O3
reactant | Florisil | 25 g | [O-][Si](=O)[O-].[Mg+2]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Br)=O | C16H14BrN3O2
